US04428965
The nonadecylcatechol acetate (NDC-AC) used in the tests was prepared as follows: 2, 3 dimethoxybenzaldehyde was reduced in the presence of sodium borohydride and the reduction product reacted with phosphorus tribromide to form 2, 3 dimethoxybenzylbromide. The benzylbromide reaction product was refluxed with triphenyl phosphine in xylene to form 2, 3 dimethoxybenzyl-triphenyl phosphonium bromide which was then reacted with octadecanal in the presence of butyl lithium to form 2, 3 dimethoxy-nonadecenylbenzene. Subsequent steps of reduction and reaction with boron tribromide produced 3-nonadecylcatechol which was purified by chromatography. The catechol was acetylated with acetic anhydride in pyridine to form the acetate (NDC-AC).

reactant | nonadecylcatechol acetate | C(C)(=O)O.C(CCCCCCCCCCCCCCCCCC)C1=C(C(O)=CC=C1)O
reactant | 2, 3 dimethoxybenzaldehyde | COC1=C(C=O)C=CC=C1OC | C9H10O3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | 2, 3 dimethoxybenzylbromide | COC1=C(CBr)C=CC=C1OC | C9H11BrO2
